US05578498
0.283 g of 3-(2-phenyl-2-chloro acetyl) N-methylindole (1 mole) (H. Nakamura and T. Goto, Heterocyles, 10, 167-170 (1978) and 0.274 g of 2-anilino ethanol (2.0 mole) were dissolved in 3 ml of dry ethanol and heated in a sealed tube at 80° C. for 8 hours. On cooling the product crystallized out as pale yellow needles which was filtered and dried to yield 0.21 g of N-phenyl indole oxazine Compound 17.

reactant | 3-(2-phenyl-2-chloro acetyl) N-methylindole | 1 mole, 0.283 g | C1(=CC=CC=C1)C(C(=O)C1=CN(C2=CC=CC=C12)C)Cl | C17H14ClNO
reactant | 2-anilino ethanol | 2.0 mole, 0.274 g | N(C1=CC=CC=C1)CCO | C8H11NO
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | N-phenyl indole oxazine | 0.21 g | O1NC=CC=C1.C1(=CC=CC=C1)N1C=CC2=CC=CC=C12 | InChI=1S/C14H11N.C4H5NO/c1-2-7-13(8-3-1)15-11-10-12-6-4-5-9-14(12)15;1-2-4-6-5-3-1/h1-11H;1-5H
